US08202873B2
Dissolve 1-ethyl-5-methyl-1H-pyrazole-4-carbaldehyde (2.92 g, 21.1 mmol) in 1,2-dichloroethane (184 mL). Add 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride (4.97 g, 18.3 mmol), triethylamine (5.9 mL, 42.3 mmol), sodium triacetoxyborohydride (6.72 g, 31.7 mmol) and acetic acid (1.98 mL) and stir at room temperature for 18 hr. Add aq. saturated sodium bicarbonate and extract four times with DCM. Dry combined organic layers (magnesium sulfate), filter, concentrate, and purify (silica gel chromatography, eluting with 50:50 to 100:0 ethyl acetate:hexanes then 10:90 to 20:80 methanol:ethyl acetate) to give 3′-chloro-4-(1-ethyl-5-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (5.2 g, 88%). MS (ES): m/z=321 [M+H]+.

reactant | 1-ethyl-5-methyl-1H-pyrazole-4-carbaldehyde | 21.1 mmol, 2.92 g | C(C)N1N=CC(=C1C)C=O | C7H10N2O
reactant | 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride | 18.3 mmol, 4.97 g | Cl.Cl.ClC=1C(=NC=CN1)N1CCNCC1
reactant | triethylamine | 42.3 mmol, 5.9 mL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 31.7 mmol, 6.72 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 184 mL | ClCCCl | C2H4Cl2
solvent | acetic acid | 1.98 mL | C(C)(=O)O | C2H4O2
product | 3′-chloro-4-(1-ethyl-5-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 5.2 g, 88% | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1C)CC | C15H21ClN6
